itle: Id-vs-Vgs for and NMOS in Saturation region
* Comparing the Level-1 and Level-49 SPICE model
* From sqrt(1*Id) vs Vgs, Vt, Kp and gamma can be extracted

* Level-1 Model 
.MODEL nmos1 NMOS (LEVEL=1 PHI=0.846 VT0=0.514 KP=122U GAMMA=0.55 LAMBDA=0.0)

* Set the device temperature
.TEMP 27

* Netlist:
* diode connected (Drain/Gate shorted nmos 
M2      D2      D2      0       B       nmos1    W=5u L=1u
Vds     D       0       DC      5
Vid2    D       D2      DC      0
Vsb     0       B       DC      0

* DC Sweep Analyses
*.DC    Vsrc    start   stop    step    Vsrc2   start stop step
.DC     Vds     0       5       0.001  Vsb  0 1 0.5

* ngspice Script with control statements.
.CONTROL
RUN
** Plot sqrt(2*Id) for M1 amd M2
PLOT Vid2#branch vs V(D)
PLOT (2*Vid2#branch)^0.5  vs V(D)
.ENDC

.END
